US05489593
1-[3-(1-Pyrrolidinyl)-2-pyridinyl]piperazine (II)
1-[1,1-Dimethylethoxycarbonyl]-4-[3-(1-pyrrolidinyl)-2-pyridinyl]piperazine (PREPARATION 47, 0.26 g) is dissolved in 1.3 ml of THF and cooled to 0°. Trifluoroacetic acid (1.3 ml) is added and the reaction is stirred at 0° for 20 min, and then warmed to 20°-25° for 20 min. Then the reaction is poured into 1N aqueous sodium hydroxide and extracted with methanol/chloroform (10/90, 2×50 ml), dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the title compound, NMR (300 MHz, CDCl3) 7.64, 6.81, 6.61, 3.05-2.94, 2.86-2.79 and 1.78-1.65 δ.

reactant | 1-[1,1-Dimethylethoxycarbonyl]-4-[3-(1-pyrrolidinyl)-2-pyridinyl]piperazine | 0.26 g | CC(C)(OC(=O)N1CCN(CC1)C1=NC=CC=C1N1CCCC1)C | C18H28N4O2
reactant | Trifluoroacetic acid | 1.3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | THF | 1.3 ml | C1CCOC1 | C4H8O
product | 1-[3-(1-Pyrrolidinyl)-2-pyridinyl]piperazine | N1(CCCC1)C=1C(=NC=CC1)N1CCNCC1 | C13H20N4
